US04977162
26.41 g (17.22 mmoles) of phosphorus oxychloride is added to 100 ml dimethylformamide at 0° C. and stirred at 0° C. for 15 minutes at room temperature for 30 minutes 7.0 g (34.45 mmoles) 2-carbamyl-7-methyl-4-oxo-4H-1-benzopyran is added and the mixture stirred at room temperature overnight, then poured into ice water and is allowed to stand for 1 hour at room temperature. The resulting precipitate is filtered off, redissolved in ethyl acetate, decolorized with carbon, filtered and the filtrate concentrated in vacuo to give 4.5 g of 2-cyano-7-methyl-4-oxo-4H1-benzopyran as a crystalline solid having an m.p. of 155°-56° C.

reactant | phosphorus oxychloride | 17.22 mmoles, 26.41 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-carbamyl-7-methyl-4-oxo-4H-1-benzopyran | 34.45 mmoles, 7.0 g | C(N)(=O)C=1OC2=C(C(C1)=O)C=CC(=C2)C | C11H9NO3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-cyano-7-methyl-4-oxo-4H1-benzopyran | 4.5 g | C(#N)C=1OC2=C(C(C1)=O)C=CC(=C2)C | C11H7NO2
